US05457105
Using an analogous procedure to that described in the first paragraph of the portion of Example 1 which is concerned with the preparation of starting materials, 5-nitroanthranilic acid was reacted with formamide to give 6-nitroquinazolin-4-one in 82% yield, m.p. 268°-271° C.

reactant | 5-nitroanthranilic acid | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)N | C7H6N2O4
reactant | formamide | C(=O)N | CH3NO
product | 6-nitroquinazolin-4-one | 82% yield | [N+](=O)([O-])C=1C=C2C(NC=NC2=CC1)=O | C8H5N3O3
